US07737152B2
2-Chloro-6-(3-acetamidophenyl-oxy)-pyrazine, CJS 505(A)
Using Method DD with 2,6-dichloropyrazine (200 mg, 1.34 mmol) and 3-acetamidophenol (202 mg, 1.49 mmol), and crystallisation in AcOEt, the title compound was obtained (350 mg). Yield: 99%. 1H NMR (250 MHz, DMSO-d6) δ 2.06 (s, 3H, CH3—NH), 6.90-6.95 (m, 1H, Harom 5), 7.76 (dd, 2H, Harom 4+6, Jm=2.0 Hz, Jo=7.6 Hz), 7.59 (s, 1H, Harom 2), 8.52 (s, 1H, HPz 5), 8.54 (s, 1H, HPz 3), 10.12 (s, 1H, NH).

reactant | 2,6-dichloropyrazine | 1.34 mmol, 200 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 3-acetamidophenol | 1.49 mmol, 202 mg | C(C)(=O)NC=1C=C(C=CC1)O | C8H9NO2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-Chloro-6-(3-acetamidophenyl-oxy)-pyrazine | Yield: 99% | ClC1=NC(=CN=C1)OC1=CC(=CC=C1)NC(C)=O | C12H10ClN3O2
